US07572808B2
Preparation of 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-6-(trifluoromethyl)picolinaldehyde
The title compound was also prepared as follows: To a stirring solution of 7-(4-chlorophenyl)-2-((2-(hydroxymethyl)-6-(trifluoromethyl)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (162.4 mg, 0.32 mmol) in CH2Cl2 (5 mL) at room temperature was added 1,1,1-tris(acetyloxy)-1,1-dihydro-1,2-benziodoxol-3-(1H)-one (Dess-Martin periodinane, 201 mg, 0.48 mmol) in one portion. The resulting mixture was stirred at room temperature for 10 min, then quenched by addition of water. The aqueous layer was extracted with CH2Cl2 (10 mL×2). The combined CH2Cl2 layers were washed with saturated aqueous NaCl, dried (Na2SO4), filtered, and concentrated under reduced pressure. The product was purified using a silica gel cartridge (12 g) eluted with a gradient of ethyl acetate (30-100%) in hexanes to obtain 160 mg (99%) of the title compound as a yellow foam. HPLC/MS: retention time=2.78 min, [M+H]+=510.6.

reactant | 7-(4-chlorophenyl)-2-((2-(hydroxymethyl)-6-(trifluoromethyl)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.32 mmol, 162.4 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)CO)=O)C2=CC=NC=C2 | C25H17ClF3N5O2
reactant | 1,1,1-tris(acetyloxy)-1,1-dihydro-1,2-benziodoxol-3-(1H)-one | 0.48 mmol, 201 mg | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-6-(trifluoromethyl)picolinaldehyde | 160 mg, 99% | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C=O)=O)C2=CC=NC=C2 | C25H15ClF3N5O2
